MM3 (VOUT1 VIN1 net16 VSS) nmos4
MM0 (net1004 VIN2 net16 VSS) nmos4
MM4 (net16 net1005 VSS VSS) nmos4
MM1 (VOUT1 net1004 VDD VDD) pmos4
MM2 (net1004 net1004 VDD VDD) pmos4
MM4 (net1004 net1005 VSS VSS) nmos4
MM2 (net1005 net1005 VSS VSS) nmos4
MM10 (neta net1007 VSS VSS) nmos4
MM3 (net1004 net1004 VDD VDD) pmos4
MM1 (net1005 neta VDD VDD) pmos4
MM0 (neta neta VDD VDD) pmos4
RR1 (net1007 net7) resistor
RR0 (VDD net7) resistor
RRF (VDD net1007) resistor
MM1 (net7 net1007 VSS VSS) nmos4
MM0 (net1007 net1007 VSS VSS) nmos4