MM12 (net12 VB1 net37 VDD) pmos4
MM11 (net23 VB1 net36 VDD) pmos4
MM10 (net10 VB1 net35 VDD) pmos4
MM9 (net10 VB1 net34 VDD) pmos4
MM2 (net37 net12 VDD VDD) pmos4
MM1 (net36 net23 VDD VDD) pmos4
MM6 (net35 net12 VDD VDD) pmos4
MM5 (net34 net23 VDD VDD) pmos4
MM14 (net10 net1003 net33 VSS) nmos4
MM13 (net10 net1003 net31 VSS) nmos4
MM3 (net23 VREF1 net17 VSS) nmos4
MM0 (net12 net7 net17 VSS) nmos4
MM4 (net17 VB2 VSS VSS) nmos4
MM8 (net33 net10 VSS VSS) nmos4
MM7 (net31 net10 VSS VSS) nmos4
MM13 (net9 net1003 VSS VSS) nmos4
MM15 (net1003 net1003 net9 VSS) nmos4
MM14 (net1003 net1006 VDD VDD) pmos4
MM11 (net023 net024 VB3 VSS) nmos4
MM8 (net025 net010 net023 VSS) nmos4
MM9 (net024 net024 net023 VSS) nmos4
MM7 (net010 net010 net025 VSS) nmos4
MM2 (VB3 VB3 VSS VSS) nmos4
MM0 (net1006 net025 VSS VSS) nmos4
MM10 (net024 net1006 VDD VDD) pmos4
MM4 (net010 net1006 VDD VDD) pmos4
MM3 (VB3 net1006 VDD VDD) pmos4
MM1 (net1006 net1006 VDD VDD) pmos4
M0 (VIN1 net10 VOUT1 VOUT1) nmos4
R2 (net11 VSS) resistor
R1 (net7 VSS) resistor
R0 (VOUT1 net7) resistor
C0 (VOUT1 net11) capacitor