MM8 (net9 net9 VSS VSS) nmos4
MM7 (net9 net9 VSS VSS) nmos4
MM3 (net20 VREF1 net16 VSS) nmos4
MM0 (net11 net9 net16 VSS) nmos4
MM4 (net16 net1005 VSS VSS) nmos4
MM6 (net9 net11 VDD VDD) pmos4
MM5 (net9 net20 VDD VDD) pmos4
MM1 (net20 net20 VDD VDD) pmos4
MM2 (net11 net11 VDD VDD) pmos4
MM8 (net1005 net1005 VSS VSS) nmos4
MM10 (net1005 net1006 VDD VDD) pmos4
MM2 (net1006 VB2 VB1 VSS) nmos4
MM0 (VB2 VB1 VSS VSS) nmos4
MM4 (VB1 net15 VSS VSS) nmos4
MM5 (net15 net15 VSS VSS) nmos4
MM3 (net1006 net1006 VDD VDD) pmos4
MM1 (VB2 net1006 VDD VDD) pmos4
MM6 (net15 net1006 VDD VDD) pmos4
M7 (VOUT2 net12 VOUT1 VDD) pmos4
M6 (VOUT1 VOUT2 VIN1 VDD) pmos4
M4 (net25 net9 net28 VDD) pmos4
M3 (net28 VB4 VIN1 VDD) pmos4
M1 (net12 net12 net29 VDD) pmos4
M0 (net29 net9 VIN1 VDD) pmos4
M9 (VOUT2 net25 VSS VSS) nmos4
M8 (VOUT2 VB3 VSS VSS) nmos4
M5 (net25 net25 VSS VSS) nmos4
M2 (net12 VB3 VSS VSS) nmos4